US09290530B2
Preparation of UDP-GalNAc
One-Pot Three-Enzyme Synthesis of uridine 5′-diphospho-2-acetamido-2-deoxy-α-D-glacopyranoside (UDP-GalNAc). GalNAc (100 mg, 1.0 eq), ATP (1.2 eq.), and UTP (1.2 eq.) were dissolved in water in a 50 mL centrifuge tube containing Tris-HCl buffer (100 mM, pH 8.0) and MgCl2 (10 mM). After the addition of NanK_ATCC55813 (3.5 mg), PmGlmU (5 mg), and PmPpA (2.5 mg), water was added to bring the volume of the reaction mixture to 20 mL. The reaction was carried out by incubating the solution in an isotherm incubator at 37° C. for 24 h with gentle shaking. Product formation was monitored by TLC (EtOAc:MeOH:H2O=3:2:1 by volume) with p-anisaldehyde sugar staining. The reaction was stopped by adding the same volume of ice-cold ethanol and incubating at 4° C. for 30 min. The mixture was concentrated and passed through a BioGel P-2 gel filtration column to obtain the desired product. Silica gel column purification (EtOAc:MeOH:H2O=4:2:1) was applied for further purification to give pure target compound. Yield, 83% (228 mg); white foam. 1H NMR (600 MHz, D2O) δ 7.93 (d, J=8.4 Hz, 1H), 5.94-5.96 (m, 2H), 5.55 (dd, J=6.6, 3.0 Hz, 1H), 4.27-4.36 (m, 2H), 4.22-4.27 (m, 3H), 4.16-4.18 (m, 2H), 4.02 (d, J=3.0 Hz, 1H), 3.95 (dd, J=10.8, 3.0 Hz, 1H), 3.71-3.78 (m, 2H), 2.06 (s, 3H). 13C NMR (150 MHz, D2O) δ 175.05, 166.31, 151.85, 141.89, 102.82, 94.75, 88.70, 83.03 (d, J=8.6 Hz), 73.97, 72.32, 69.79, 68.50, 67.64, 65.14, 61.17, 49.95 (d, J=7.8 Hz), 22.24. HRMS (ESI) m/z calcd for C17H28N3O17P2 (M+H) 608.0894, found 608.0906.

reactant | GalNAc | 100 mg, 1.0 eq | OC1[C@@H]([C@@H](O)[C@@H](O)[C@H](O1)CO)NC(=O)C | C8H15NO6
reactant | ATP | 1.2 eq. | P(O)(=O)(OP(=O)(O)OP(=O)(O)O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)O | C10H16N5O13P3
reactant | UTP | 1.2 eq. | C1=CN(C(=O)NC1=O)[C@H]2[C@@H]([C@@H]([C@H](O2)COP(=O)(O)OP(=O)(O)OP(=O)(O)O)O)O | C9H15N2O15P3
reactant | Tris-HCl | 100 mM, pH 8.0 | C(C(CO)(CO)N)O.Cl
reactant | MgCl2 | 10 mM | [Mg+2].[Cl-].[Cl-]
solvent | water | O | H2O
solvent | MeOH | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | UDP-GalNAc | CC(=O)N[C@@H]1[C@H]([C@H]([C@H](O[C@@H]1OP(=O)(O)OP(=O)(O)OC[C@@H]2[C@H]([C@H]([C@@H](O2)N3C=CC(=O)NC3=O)O)O)CO)O)O | C17H27N3O17P2
